US08859573B2
2-(4-((6-methylpyridin-2-yl)oxy)phenyl)ethanol
The title compound was prepared by a procedure similar to that described for D1 starting from 4-(2-hydroxyethyl)phenol and 2-chloro-6-methylpyridine. LC-MS (ESI): m/z 230 [M+H]+; 3.08 min (ret time).

reactant | 4-(2-hydroxyethyl)phenol | OCCC1=CC=C(C=C1)O | C8H10O2
reactant | 2-chloro-6-methylpyridine | ClC1=NC(=CC=C1)C | C6H6ClN
product | 2-(4-((6-methylpyridin-2-yl)oxy)phenyl)ethanol | CC1=CC=CC(=N1)OC1=CC=C(C=C1)CCO | C14H15NO2
